US08008303B2
4′-Amino-2′-methyl-biphenyl-3-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
[2-Methyl-3′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-yl]-carbamic acid tert-butyl ester (670 mg) was stirred in methanol (15 ml) and 5M HCl (5 ml) at 20 C for 2 days. TLC indicated that the reaction was progressing slowly and so the mixture was heated to reflux for 6 h. The reaction was allowed to cool and was then basified and extracted with dichloromethane. The dried extract was evaporated and the residue purified on silica gel. Elution with dichloromethane:ethanol:0.880 ammonia; 400:8:1 gave a colourless foam which crystallized on standing (354 mg).

reactant | [2-Methyl-3′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-yl]-carbamic acid tert-butyl ester | 670 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)C1=CC(=CC=C1)C(NC1=CC=C(C=C1)N1CCOCC1)=O)C)=O | C29H33N3O4
reactant | HCl | 5M, 5 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 4′-Amino-2′-methyl-biphenyl-3-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)N)C | C24H25N3O2
